US07629340B2
(S)-2-(3′-Cyclopropylcarbamoylmethyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6312)
A solution of (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (74 mg, 0.16 mmol), 2-(3-bromo-phenyl)-N-cyclopropyl-acetamide (42.0 mg, 0.17 mmol), and Pd[P(Ph)3]4 (14.3 mg, 7.5 mol %) in methanol (2 mL), NaHCO3 (sat. aq., 300 μL), and DMF (400 μL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered, and purified by reverse phase HPLC to give the desired product. Yield 5.3 mg. MS: 498.2 (M+H+); H1 -NMR (DMSO-d6): δ (ppm) 0.31-0.39 (m, 2H), 0.52-0.60 (m, 2H), 1.74-2.00 (m, 3H), 2.10-2.30 (m, 1H), 2.50-2.62 (m, 1H), 3.34-3.54 (m, 2H), 4.28-4.38 (m, 1H), 4.85-5.08 (m, 2H), 6.95-7.55 (m, 12H), 7.80-7.92 (m, 1H), 8.05-8.18 (m, 1H), 10.05-10.12 (s, 1H).

reactant | (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.16 mmol, 74 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H31BN2O5
reactant | 2-(3-bromo-phenyl)-N-cyclopropyl-acetamide | 0.17 mmol, 42.0 mg | BrC=1C=C(C=CC1)CC(=O)NC1CC1 | C11H12BrNO
reactant | DMF | 400 μL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
solvent | NaHCO3 | 300 μL | C(=O)(O)[O-].[Na+]
product | (S)-2-(3′-Cyclopropylcarbamoylmethyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1C=C(C=CC1)C1=CC(=CC=C1)CC(NC1CC1)=O)=O | C30H31N3O4
